Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
gait unsteadiness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ year old woman with history of depression
who presents with a 2 month history of progressive arm and leg
weakness and gait unsteadiness, to the point of now being
walker-dependent, and with several episodes of urinary
incontinence. History obtained from patient and son at bedside. 

Ms. ___ reports she was in her usual state of health until
___ months ago. She has developed gradual progression of
generalized weakness and gait unsteadiness over this period.
Initially, she noticed that while walking around the house and
work, her muscles felt weak throughout -- she has difficulty
localizing this further, but it is bilateral and in both arms 
and
both legs. At the time, she attributed it to prolonged recovery
from an ankle injury she suffered this past ___, as she had
not been following up regularly with ___.  

However, Ms. ___ weakness gradually progressed over the
last few months. She began to feel "off balance" which she has
difficulty describing further. She started using crutches about
1.5 months ago for added stability. Over the last ___ weeks, she
has required a walker. She initially struggled with stairs and
turns, but now cannot do household tasks around her one level
apartment due to her symptoms.  She has had no back pain, no 
neck
pain, and denies any sensory symptoms such as numbness/tingling. 


In addition she has had reported urinary incontinence over the
last ___ weeks. In discussing further with the patient, she is
embarrassed to discuss this and is reluctant to give details. 
She
reports that she does feel an urge to urinate, but often is not
able to make it to the bathroom in time due to her weakness. She
says that the urine "sometimes dribbles" but has difficulty
describing this further. Denies ever having incontinence without
awarenss of it. Denies groin numbness. Denies bowel 
incontinence.

At some point over the last few months, the patient saw her PCP
for further evaluation, who performed MRI brain (unknown whether
it was with contrast) that was reportedly normal, per the
patient's son. We do not have these records. More recently, the
patient saw a neurologist ___ MD, ___)
today, who raised concern for spinal cord lesion, and referred
her to ___ for further evaluation. 

Over the last several months, the patient reports severe
depression. She describes "my head is always in a gray cloud."
When interviewed without her son, she reports being distressed
about his life and personal issues he is dealing with. She
reports ongoing anhedonia, depressed mood, diminished energy, 
and
difficulty sleeping. She was recently prescribed Lexapro 5mg BID
by her PCP.  

Patient reports that she rarely follows up with physicians. She
has been told she has high cholesterol in the past, but did not
follow up for repeat check. 

Neuro ROS positive for unsteady gait, bladder issues as above.
Denies headache, loss of vision, blurred vision, diplopia,
dysarthria, dysphagia, lightheadedness, vertigo, tinnitus or
hearing difficulty. Denies difficulties producing or
comprehending speech.  Denies focal weakness, numbness,
parasthesiae. No bowel incontinence or retention. 

On general review of systems, the pt denies recent fever or
chills.  No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies chest pain or tightness,
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or
abdominal pain.  No recent change in bowel habits.  No dysuria. 
Denies arthralgias or myalgias. Denies rash.

 
Past Medical History:
Depression, recently started on lexapro 
 
Social History:
___
Family History:
Noncontributory 
 
Physical Exam:
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no nuchal rigidity, normal ROM of neck 
Pulmonary: breathing non labored on room air 
Cardiac: warm and well perfused
Abdomen: soft, NT/ND, no masses or organomegaly noted.
Extremities: No cyanosis, clubbing or edema bilaterally. 
Negative
straight leg raise test, no crossed leg raise test. 
Skin: no rashes or lesions noted.

Neurologic:
-Mental Status: Awake, alert, oriented to self, place, time and
situation. She appears depressed. Her answers to questions are
tangential at times, perseverates on prior ankle injury this 
past
___. Able to relate history without difficulty. Attentive,
able to name ___ backward without difficulty. Language is fluent
with intact repetition and comprehension. Normal prosody. There
were no paraphasic errors. Pt was able to name both high and low
frequency objects.  Able to read without difficulty. Speech was
not dysarthric. Able to follow both midline and appendicular
commands. Pt was able to register 3 objects and recall ___ at 5
minutes (gets last object with category cue). The pt had good
knowledge of current events. There was no evidence of apraxia or
neglect.

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 3 to 2mm and brisk. VFF to confrontation. 
III, IV, VI: EOMI without nystagmus. Normal saccades.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk throughout. Mildly increased tone in legs. 
No
pronator drift bilaterally. No adventitious movements, such as
tremor, noted. No asterixis noted.
  Delt Bic Tri WrE FFl  FE  IO  IP   Quad  Ham TA   ___
L  5    ___   5    ___    5    4   5      5     5
R  5    ___   5    ___    5    4   5      5     5

-Sensory:
*Proprioception: Profound sensory loss to proprioception in the
toes and leg, even to large amplitude movements. No
proprioceptive loss in the hands or arms bilaterally.

*Pinprick: No deficits throughout.

*Vibration: no vibratory sense in L toe, limited in the R toe 
(to
only 2 seconds) 

No extinction to DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  3  3    3    3    2
R  3  3    3    3    2
Crossed adductors and pectoralis jerks present
No ankle clonus 
Plantar response was extensor bilaterally.

-Coordination: Mild dysmetria on FNF bilaterally. No intention
tremor, no dysdiadochokinesia noted. 

-Gait: Able to rise out of the bed with minimal assistance.
Unable to stand up unsupported due to significant sensory loss;
Romberg is markedly positive. When attmepting to take a step, 
she
started to fall down, needing to be caught. Unable to walk in
tandem. 

 
Pertinent Results:
LABORATORY EVALUATION:

___ 07:38PM BLOOD WBC-7.6 RBC-3.76* Hgb-12.8 Hct-39.4 
MCV-105* MCH-34.0* MCHC-32.5 RDW-14.0 RDWSD-54.9* Plt ___
___ 07:38PM BLOOD Neuts-63.9 ___ Monos-7.0 Eos-4.2 
Baso-0.5 Im ___ AbsNeut-4.84 AbsLymp-1.83 AbsMono-0.53 
AbsEos-0.32 AbsBaso-0.04
___ 07:38PM BLOOD Glucose-120* UreaN-20 Creat-1.0 Na-143 
K-4.3 Cl-104 HCO3-27 AnGap-12
___ 07:51AM BLOOD Calcium-8.8 Phos-4.1 Mg-2.3
___ 06:30AM BLOOD ALT-25 AST-19 LD(LDH)-210 AlkPhos-72 
TotBili-0.5
___ 07:38PM BLOOD cTropnT-<0.01
___ 06:30AM BLOOD %HbA1c-5.0 eAG-97
___ 07:51AM BLOOD TSH-2.6

___ 07:51AM BLOOD VitB12-<30* Folate->20
___ 07:25PM BLOOD INTRINSIC FACTOR ANTIBODY- pending
___ 07:51AM BLOOD COPPER (SERUM)- pending
___ 07:51AM BLOOD VITAMIN E- pending

IMAGING EVALUATION:

MRI C-spine w/wo contrast
IMPRESSION: 
1. No evidence for abnormal intramedullary or epidural 
enhancement.  No 
epidural collection or hematoma. 
2. Multilevel spondylosis of the cervical spine, as detailed 
above.  Findings are most notable at C5-6 with moderate canal 
stenosis and severe bilateral neural foraminal narrowing. 
3. Multilevel spondylosis of the lumbar spine, also detailed 
above.  Findings are most significant at L4-L5 with mild to 
moderate canal stenosis, mild-to-moderate left and moderate 
severe right neural foraminal narrowing. 
4. L4-L5 disc bulge contacting the exiting right L4 nerve root, 
and L5-S1 disc bulge contacting the exiting left L5 nerve root. 

MRI head w/wo contrast
IMPRESSION: 
1. No evidence for intracranial ischemia, infarction, 
hemorrhage, or abnormal enhancement. 
2. Several punctate T2/FLAIR hyperintensities within the 
periventricular and subcortical white matter.  These findings 
are nonspecific and most commonly seen in the setting of chronic 
small vessel ischemic disease.  No discrete pericallosal lesions 
___ fingers"), T1 black holes, or lesional enhancement or 
restricted diffusion is seen to favor demyelinating disease. 

 
Brief Hospital Course:
Patient summary: ___ is a ___ year old woman with 
history of
depression who presents with a ___ month history of progressive 
balance disturbances and gait unsteadiness to the point of now 
being
walker-dependent.

Acute issues: Neurologic exam was notable for profound 
proprioceptive and vibratory loss in lower extremity, bilateral 
ataxia, mild upper motor neuron pattern of weakness in legs, and 
hyperreflexia throughout and extensor plantar response. An MRI 
of the spine was done for a compressive lesion, which was not 
found. An MRI of the brain was done as well which showed no 
acute intracranial lesion, but did note some T2 hyperintensities 
consistent with chronic small vessel disease. RPR was checked, 
which was non reactive. B12 level was found to be less than 30. 
This low B12 level is likely the cause of her symptoms; it 
explains her profound proprioceptive and gait problems and her 
hyperreflexia and UMN weakness pattern. MMA, Vitamin E, are 
still pending.  The cause of her profound deficiency in the 
setting of no small bowel surgery, H. pylori infection, or 
vegatarian diet is most likely to be pernicious anemia. 
Intrinsic factor antibody was sent, and pending at time of 
discharge. She was started on B12 injections, once daily for ___ 
weeks and then either weekly or monthly, depending on response 
and follow up level. If her intrinsic factor antibody test does 
not indicate a gastrointestinal issue with absorption of vitamin 
B12 she could be started on oral supplementation in the future. 

Chronic issues: The patient has not followed with a PCP for ___ 
years and therefore needs to establish care to monitor B12 
deficiency and follow up results of testing as described above. 
In addition, she needs routine cancer screening as well as 
likely upper endoscopy to evaluate for gastritis/upper GI 
malignancy as a potential source of pernicious anemia. This 
recommendation was conveyed to her multiple times.

Transitional issues:
[ ] Patient provided instructions for her husband to inject B12 
for the next ___ weeks. Unfortunately she did not qualify for 
___ services for this indication.
[ ] Patient needs to establish care with a PCP to recheck levels 
in 2 weeks and decided whether to expand to weekly vs. monthly.
[ ] We will call patient with results of anti-IF Ab assay once 
available; if negative then she may be able to be switched to 
oral B12 supplementation instead of IM/SQ.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Escitalopram Oxalate 5 mg PO BID 

 
Discharge Medications:
1.  Cyanocobalamin 1000 mcg IM/SC DAILY Duration: 14 Days 
RX *cyanocobalamin (vitamin B-12) [Physicians ___ B-12] 1,000 
mcg/mL 1 vial daily Disp #*14 Kit Refills:*1 
2.  Escitalopram Oxalate 5 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
B12 deficiency, suspected secondary to pernicious anemia
Subacute combined degeneration

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear ___,

___ were hospitalized because ___ were having difficulty 
walking. We found that ___ had severe sensory loss in your feet, 
particularly to vibration and movement. We did an MRI of your 
spine and your brain, which did not show anything abnormal that 
would explain your symptoms. We checked many lab tests, 
including vitamin B12. We found that ___ were severely deficient 
in vitamin B12, which would account for your symptoms. We gave 
___ a B12 injection, and sent another test to try to find out 
why your level was so low. 

___ will need to get daily B12 injections for at least ___ 
weeks, followed by one injection either weekly or monthly after 
that. This exact dosage will be determined by checking your 
levels after the 2 weeks and ensuring that ___ are improving in 
response to treatment. ___ will need to establish care with a 
primary care physician in order to monitor this carefully.

We have provided instructions on your family member performing 
these injections in the time being. Once ___ contact your PCP, 
___ may also opt to have the injections done at your PCP's 
office. ___ will also need to have standard cancer screening 
performed because ___ have not had care in a long time.

It was a pleasure taking care of ___, and we wish ___ the best.
Sincerely,
Your ___ Neurology Team
 
Followup Instructions:
___